US07378418B2
278B. Preparation of 2-(4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole
2-(4-Bromophenyl)oxazole was reacted with bis(pinacolato)diboron following literature procedures to give the title compound, 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole.

reactant | 2-(4-Bromophenyl)oxazole | BrC1=CC=C(C=C1)C=1OC=CN1 | C9H6BrNO
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)oxazole | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C=1OC=CN1)C | C15H18BNO3
